US04968444
2.7 g of tert-butyl peroctoate.
10.76 g of N-vinyl-2-pyrrolidone and the temperature is raised to 130° C. Then 0.9 g of tert-butyl perbenzoate is added. After 1 and 2 hours, respectively, a 0.4 g portion of tert-butyl perbenzoate is fed in. The charge is maintained at 130° C. for another 5 hours. A clouded viscous solution is obtained.

reactant | N-vinyl-2-pyrrolidone | 10.76 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | tert-butyl perbenzoate | 0.9 g | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
product | tert-butyl peroctoate | CCCCCCCC(=O)OOC(C)(C)C | C12H24O3
